US05244911
Preparation of (+) (2aS,4R)-6-acetyl-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indol
A solution of 2.4 g (4.6 mmol) (+)-1-trityl-6-cyano-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole in 100 mL of THF was treated with 25 mL of 2.0M methylmagnesium bromide in diethyl ether. The reaction mixture was refluxed for 16 hr. The reaction mixture was cooled and excess Grignard reagent was decomposed with addition of saturated NH4Cl solution. The reaction mixture was extracted with ethyl acetate. The organic solution was evaporated to an oil. The oil was dissolved in 25 mL of 5N HCl and the solution was stirred at room temperature for 30 min. The acidic solution was made alkaline with the addition of excess concentrated NH4OH solution. The basic mixture was extracted twice with ethyl acetate. The combined organic solution was washed once with saturated NaCl solution and dried over MgSO4. The ethyl acetate solution was evaporated to yield 1.4 g of an oil. Chromatography of this oil over silicia gel with ethyl acetate as eluent gave 1.2 g (87%) of product. Recrystallization from hexanes yielded 840 mg of the product (+) ketone.

reactant | (+)-1-trityl-6-cyano-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 4.6 mmol, 2.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC2C=3C(=C(C=CC13)C#N)CC(C2)N(CCC)CCC | C37H39N3
reactant | methylmagnesium bromide | 2.0M, 25 mL | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (+) (2aS,4R)-6-acetyl-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indol | 1.4 g | C(C)(=O)C1=C2C=3[C@@H](CNC3C=C1)C[C@H](C2)N(CCC)CCC | C19H28N2O
